US07223791B2
To a solution (15 ml) of 2-amino-4-methoxycarbonylbenzoic acid (3.00 g) in trifluoroacetic acid was added dropwise anhydrous trifluoroacetic acid (7 ml) at 0° C. This mixture was stirred for 1 hr. and poured into water. The crystals were collected by filtration to give 4-methoxycarbonyl-2-trifluoroacetylaminobenzoic acid (4.40 g, yield 98%). Recrystallization from hexane-ethyl acetate gave colorless prism crystals. melting point: 185–186° C.

reactant | 2-amino-4-methoxycarbonylbenzoic acid | 15 ml, 3.00 g | NC1=C(C(=O)O)C=CC(=C1)C(=O)OC | C9H9NO4
reactant | water | O | H2O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 7 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-methoxycarbonyl-2-trifluoroacetylaminobenzoic acid | 4.40 g, yield 98% | COC(=O)C1=CC(=C(C(=O)O)C=C1)NC(C(F)(F)F)=O | C11H8F3NO5
